US05134111
(c) Preparation of (E)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid
1.9 g of (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid was dissolved in 80 ml of acetone and 40 ml of water and 3 ml of concentrated hydrochloric acid was added, followed by stirring at 50° C. for 2 hours. After cooling to room temperature the reaction mixture was poured into water, and the resultant crystals were filtered and washed with hexane. 1.5 g of the titled compound was obtained as pale yellow crystals.

reactant | (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid | 1.9 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)/C=C(/C(=O)O)\C | C20H24O5
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | (E)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid | 1.5 g | OC1=C(C=C(C2=CC=CC(=C12)CCC)/C=C(/C(=O)O)\C)OC | C18H20O4
